US05149728
NOVOLAK ESTERIFIED WITH 3-NITROBENZOIC ACID
1 liter water and 60 g NaOH are added to 100 g Vulkadur RB® and a solution of 200 g 3-nitrobenzoyl chloride in 300 ml THF is then added with stirring (cooling with ice). After 174 h, 500 ml CH2Cl2 are added and the organic phase is separated off and concentrated by evaporation. The N content of the product corresponds to the theoretical.

reactant | water | 1 liter | O | H2O
reactant | NaOH | 60 g | [OH-].[Na+]
reactant | 3-nitrobenzoyl chloride | 200 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 3-NITROBENZOIC ACID | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
